US06617325B1
Methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-N-methyl-amino]-piperidin-1-yl}-pentanecarboxylate
0.095 g (0.803 mmol) of sodium hydride (55 to 65% in oil) are added to a solution of 0.4 g (0.724 mmol) of methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate in 5 ml of dimethylformamide at ambient temperature and stirred for one hour. Then 0.05 ml (0.803 mmol) of methyl iodide are added and the mixture is stirred for 14 hours. The reaction solution is poured onto water, extracted with ethyl acetate, and the organic phase is dried over sodium sulphate. The product is purified by column chromatography on silica gel (eluant: dichloromethane/methanol=5:1).

reactant | sodium hydride | 0.803 mmol, 0.095 g | [H-].[Na+]
reactant | methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-pentanecarboxylate | 0.724 mmol, 0.4 g | CC(CC(=O)OC)(CCCN1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C33H37F3N2O3
reactant | methyl iodide | 0.803 mmol, 0.05 ml | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Methyl 2-methyl-2-phenyl-5-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-N-methyl-amino]-piperidin-1-yl}-pentanecarboxylate | CC(CC(=O)OC)(CCCN1CCC(CC1)N(C)C(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C34H39F3N2O3
